US08633173B2
166 e) To a cooled solution of 2.0 M of lithium tetrahydroborate in tetrahydrofuran (13 mL, 26 mmol) at 5° C. was added dropwise a solution of 5-amino-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (1.0 g, 4.3 mmol) in tetrahydrofuran (50 mL). Gas evolution was noted. The mixture was stirred for 1 hour at 5° C. then warmed to room temperature and stirred for 24 hours. The mixture was cooled to 5° C. in a ice/water bath and the reaction was quenched by addition of sodium sulfate decahydrate (3 g). Gas evolution noted. The mixture was stirred for 2 hours at room temperature. The suspension was filtered through a plug of diatomaceous earth and rinsed with tetrahydrofuran. The filtrate was dried over magnesium sulfate, filtered and evaporated. The residue was purified via flash chromatography (silica gel column and 0%→20% methanol: dichloromethane). 2-Methyl-2,3-dihydro-1H-isoindol-5-ylamine was isolated as an orange solid (0.271 g, 43%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 6.82 (d, J=7.9 Hz, 1H), 6.41 (s, 1H), 6.37 (d, J=8.1 Hz, 1H), 4.86 (br s, 2H), 3.64 (s, 2H), 3.62 (s, 2H), 2.42 (s, 3H). MS=149 (MH)+.

reactant | lithium tetrahydroborate | 2.0 M | [BH4-].[Li+]
reactant | 5-amino-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 4.3 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N | C13H18N2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 26 mmol, 13 mL | O1CCCC1 | C4H8O
product | 2-Methyl-2,3-dihydro-1H-isoindol-5-ylamine | CN1CC2=CC=C(C=C2C1)N | C9H12N2
